US07407946B2
Hydrochloric acid (1 ml of a 4.0 N solution in 1,4-dioxane, 4 mmol) was added, dropwise to a solution of di(tert-butyl) (1-(3-((4-((5-(2-((2-fluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)piperidin-4-yl)methyl phosphate (assumed 379 mg, 0.49 mmol) in 1,4-dioxane (15 ml) upon which a light yellow solid precipitated from the reaction mixture. The resulting heterogeneous reaction mixture was stirred for a further 20 hours and the precipitate was filtered and washed with 1,4-dioxane (2×5 ml) then dried under high vacuum for 48 hours to furnish (1-(3-((4-((5-(2-((2-fluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)piperidin-4-yl)methyl dihydrogen phosphate bis-hydrochloride as a light yellow solid (302 mg, 84% yield):

reactant | Hydrochloric acid | Cl | ClH
reactant | di(tert-butyl) (1-(3-((4-((5-(2-((2-fluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)piperidin-4-yl)methyl phosphate | 0.49 mmol, 379 mg | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCC1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC=1SC(=CN1)CC(=O)NC1=C(C=CC=C1)F)OC | C37H50FN6O7PS
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (1-(3-((4-((5-(2-((2-fluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)piperidin-4-yl)methyl dihydrogen phosphate bis-hydrochloride | 302 mg, 84% yield | Cl.Cl.P(=O)(OCC1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC=1SC(=CN1)CC(=O)NC1=C(C=CC=C1)F)OC)(O)O | InChI=1S/C29H34FN6O7PS.2ClH/c1-41-25-14-21-24(15-26(25)42-12-4-9-36-10-7-19(8-11-36)17-43-44(38,39)40)32-18-33-28(21)35-29-31-16-20(45-29)13-27(37)34-23-6-3-2-5-22(23)30;;/h2-3,5-6,14-16,18-19H,4,7-13,17H2,1H3,(H,34,37)(H2,38,39,40)(H,31,32,33,35);2*1H
